US07045551B2
Step A: Trifluoro-methanesulfonic acid 7-methoxy-naphthalen-2-yl ester
To a solution of 7-methoxy-naphthalen-2-ol (17.4 g) and pyridine (40 mL) in methylene chloride (150 mL) at 0° C. was added a solution of trifluoromethanesulfonic anhydride (32.4 g) in CH2Cl2 (15 mL). After stirring for 0.5 h, the reaction mixture was warmed to rt and stirred for 1 h. The reaction was quenched with water carefully. The organic layer was washed with 10% H3PO4, dried over MgSO4. After concentration, the crude product was purified by flash chromatography eluting with 20% ethyl acetate in hexanes to give the title compound as an oil (28 g).

reactant | 7-methoxy-naphthalen-2-ol | 17.4 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 32.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 7-methoxy-naphthalen-2-yl ester | 28 g | COC1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C12H9F3O4S
